US05446042
2-[1-[2-Methoxy-2-(4-methoxyphenyl)ethyl]-1,2,5,6-tetrahydropyrid-4-yl]-4H,6H-1,3,4-thiadiazin-5-one (Compound 70)
2-[1-[2-Hydroxy-2-(4-methoxyphenyl)ethyl]-1,2,5,6-tetrahydropyrid-4-yl]-4H,6H-1,3,4-thiadiazin-5-one (150 mg, 0.43 mmol) was dissolved in methanol (5 ml), added with concentrated sulfuric acid (0.8 ml, 15 mmol) and refluxed with heating for four hours. The solution was poured into ice water and neutralized with 2N aqueous sodium hydroxide. The precipitated colorless crystals are filtered out and recrystallized from 60% aqueous ethanol solution to obtain the compound (110 mg) as light yellow fine needles.

reactant | 2-[1-[2-Hydroxy-2-(4-methoxyphenyl)ethyl]-1,2,5,6-tetrahydropyrid-4-yl]-4H,6H-1,3,4-thiadiazin-5-one | 0.43 mmol, 150 mg | OC(CN1CC=C(CC1)C=1SCC(NN1)=O)C1=CC=C(C=C1)OC | C17H21N3O3S
reactant | sulfuric acid | 15 mmol, 0.8 ml | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | methanol | 5 ml | CO | CH4O
product | 2-[1-[2-Methoxy-2-(4-methoxyphenyl)ethyl]-1,2,5,6-tetrahydropyrid-4-yl]-4H,6H-1,3,4-thiadiazin-5-one | 110 mg | COC(CN1CC=C(CC1)C=1SCC(NN1)=O)C1=CC=C(C=C1)OC | C18H23N3O3S
